US05723479
A mixture of 6-(5-methyl-2-phenyl-4-oxazolylmethoxy)-2-benzofurancarbaldehyde (1.70 g), 2,4-oxazolidinedione (1.55 g), pyrrolidine (0.365 g) and ethanol (40 ml) was heated under refluxing conditions for 3 hours. The reaction mixture was poured over water; the resulting crystals were collected by filtration. The crystals were dissolved in tetrahydrofuran (100 ml); after palladium-carbon (0.40 g) was added, the mixture was subjected to catalytic reduction at room temperature under an atmospheric pressure of 1 atm. After the catalyst was filtered off, the filtrate was concentrated under reduced pressure; the residue was subjected to silica gel column chromatography. From the fraction eluted with methanolchloroform (2:98, v/v), crystals of 5-[6-(5-methyl-2-phenyl-4-oxazolylmethoxy)-2-benzofuranylmethyl]-2,4-oxazolidinedione (0.14 g, 6.6%) were obtained, which was then recrystallized from dichloromethane-methanol to yield colorless prisms having a melting point of 172° to 173° C.

reactant | 6-(5-methyl-2-phenyl-4-oxazolylmethoxy)-2-benzofurancarbaldehyde | 1.70 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC2=C(C=C(O2)C=O)C=C1 | C20H15NO4
reactant | 2,4-oxazolidinedione | 1.55 g | O1C(NC(C1)=O)=O | C3H3NO3
reactant | pyrrolidine | 0.365 g | N1CCCC1 | C4H9N
reactant | ethanol | 40 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 5-[6-(5-methyl-2-phenyl-4-oxazolylmethoxy)-2-benzofuranylmethyl]-2,4-oxazolidinedione | 0.14 g, 6.6% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC2=C(C=C(O2)CC2C(NC(O2)=O)=O)C=C1 | C23H18N2O6
